US03953604
A solution of 2,6-dihydroxyacetophenone (15.2 g), m-cresylglycidyl ether (16.4 g) and benzyltrimethylammonium hydroxide (10 drops of a 40% solution) in 2-ethoxyethanol (75 ml) was heated under reflux for 48 hours. The solvent was then removed under reduced pressure to give 1-(2-acetyl-3-hydroxyphenoxy)-2-hydroxy-3-m-cresyloxypropane (31.5 g) as a viscous amber oil.

reactant | 2,6-dihydroxyacetophenone | 15.2 g | CC(=O)C=1C(=CC=CC1O)O | C8H8O3
reactant | m-cresylglycidyl ether | 16.4 g | C1(=CC(=CC=C1)C)OCC1CO1 | C10H12O2
reactant | benzyltrimethylammonium hydroxide | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
solvent | 2-ethoxyethanol | 75 ml | C(C)OCCO | C4H10O2
product | 1-(2-acetyl-3-hydroxyphenoxy)-2-hydroxy-3-m-cresyloxypropane | 31.5 g | C(C)(=O)C1=C(OCC(COC2=CC(=CC=C2)C)O)C=CC=C1O | C18H20O5
